US05478845
A mixture of 4-(6-fluoro-1-methyl-1H-indazol-3-yl)piperidine (5.0 g; 0.02 mol), potassium carbonate (8.28 g; 0.06 mol), 3-bromopropanol (2.98 g; 0.02 mol) and acetone (100 ml) was stirred and refluxed for 20 h. The reaction mixture was filtered, concentrated in vacuo and purified by chromatography on silica gel 60 with ethyl acetate:methanol (8:2, v/v) as eluent. Concentration of the appropriate fractions afforded 2.1 g (34%) of 4-(6-fluoro-1-methyl-1H-indazol-3-yl)-1-(3-hydroxypropyl)piperidine.

reactant | 4-(6-fluoro-1-methyl-1H-indazol-3-yl)piperidine | 0.02 mol, 5.0 g | FC1=CC=C2C(=NN(C2=C1)C)C1CCNCC1 | C13H16FN3
reactant | potassium carbonate | 0.06 mol, 8.28 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-bromopropanol | 0.02 mol, 2.98 g | BrCCCO | C3H7BrO
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | 4-(6-fluoro-1-methyl-1H-indazol-3-yl)-1-(3-hydroxypropyl)piperidine | 2.1 g, 34% | FC1=CC=C2C(=NN(C2=C1)C)C1CCN(CC1)CCCO | C16H22FN3O
